US03957850
Ethyl p-aminophenylacetate (5.4 g), ethyl iodide (4.7 g), pyridine (2.4 g) and isopropanol (50 ml) are boiled together during 6 hours. The reaction mixture is concentrated in vacuo, taken up into water, extracted with ether and dried, and the solvent is then removed. Ethyl p-ethylaminophenylacetate (2 g) is isolated by chromatography over silica. Saponification in the cold, in methanolic sodium hydroxide, gives 1.2 g of p-ethylaminophenylacetic acid. M.p. inst. = 123°C after recrystallization from ethyl acetate.

reactant | Ethyl p-aminophenylacetate | 5.4 g | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
reactant | ethyl iodide | 4.7 g | C(C)I | C2H5I
reactant | pyridine | 2.4 g | N1=CC=CC=C1 | C5H5N
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | Ethyl p-ethylaminophenylacetate | 2 g | C(C)NC1=CC=C(C=C1)CC(=O)OCC | C12H17NO2
